US07323466B2
a) (R)-2-(3-Methoxymethyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester
To the solution of 0.20 g (0.65 mmol) (R)-2-(3-hydroxymethyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester in 3 mL N,N-dimethylformamide 31 mg (0.71 mmol; 55% dispersion in mineral oil) sodium hydride was added. After 30 min. 81 μL (1.3 mmol) methyl iodide was added. After 2 h the reaction mixture was diluted with ethyl acetate and extracted with 10% aqueous ammonium chloride solution followed by brine. The organic layer was dried over magnesium sulfate, filtered and evaporated and the residue was purified by column chromatography on silica gel with n-hexane:ethyl acetate (1:1) as eluant to give the title compound as a colorless oil (76%).

reactant | (R)-2-(3-hydroxymethyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.65 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=CC=C1)CO | C17H25NO4
reactant | N,N-dimethylformamide | 0.71 mmol, 3 mL, 31 mg | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 1.3 mmol, 81 μL | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-(3-Methoxymethyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | 76% | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=CC=C1)COC | C18H27NO4
